US08633187B2
Preparation of 6-(1H-benzimidazol-2-yl)-4-(4-pyridinyl)quinoline
A mixture of 4-(4-pyridinyl)-6-quinolinecarbonitrile, (231 mg, 1 mmol) 1,2-diaminobenzene (108 mg, 1 mmol) and polyphosphoric acid (1.4 g) was heated in the microwave at 250° C. for 1.5 hours. The reaction was poured onto water which was neutralized with bicarbonate. The product was filtered, washed with water, and dried. The product was further purified by dissolving in hot methanol, filtering and cooling to obtain crystals. The yield was 47.7 mg, 30%. MS (ES)+ m/e 323 [M+H]+.

reactant | 4-(4-pyridinyl)-6-quinolinecarbonitrile | 1 mmol, 231 mg | N1=CC=C(C=C1)C1=CC=NC2=CC=C(C=C12)C#N | C15H9N3
reactant | 1,2-diaminobenzene | 1 mmol, 108 mg | NC1=C(C=CC=C1)N | C6H8N2
reactant | bicarbonate | C([O-])(O)=O
product | 6-(1H-benzimidazol-2-yl)-4-(4-pyridinyl)quinoline | N1C(=NC2=C1C=CC=C2)C=2C=C1C(=CC=NC1=CC2)C2=CC=NC=C2 | C21H14N4
